US05444042
Z-Ala-Ala-DL-Abu-CO2Bzl.
This compound was prepared from Z-Ala-Ala-Abu-OH in 31% yield by the procedure described in Example PKC1, except that benzyl oxalyl chloride was used in the Dakin-West reaction and sodium benzyloxide in benzyl alcohol was used for enol ester hydrolysis; single spot on tlc, Rf2 =0.40 (CHCl3 :MeOH=9:1); mp 124°-125° C.; MS, m/e=498 (M+ +1). Anal. Calcd. for C26H31O7N3.2/3 H2O: C, 61.28; H, 6.39; N, 8.24. Found: C, 61.14; H, 6.65; N, 7.94.

reactant | Z-Ala-Ala-Abu-OH | N([C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](CC)C(=O)O)C(=O)OCC1=CC=CC=C1 | C18H25N3O6
reactant | sodium benzyloxide | C(C1=CC=CC=C1)OCC1=CC=CC=C1.[Na]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | MeOH | CO | CH4O
solvent | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
solvent | H2O | O | H2O
product | Z-Ala-Ala-DL-Abu-CO2Bzl | 31% yield | N([C@@H](C)C(=O)N[C@@H](C)C(=O)NC(CC)C(=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C26H31N3O7
